US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (4.43 g, 20 mmol) in THF (100 ml) at −78° C., tert-butyllithium 1.7 M in pentane (17.65 ml, 30.0 mmol) solution was added dropwise. The reaction mixture was stirred for 0.5 h before addition of 5-isopropoxypicolinonitrile (3.41 g, 21.00 mmol) in THF (2 mL). The resulting solution was warmed to rt and stirred for 16 h. The reaction mixture was quenched with water, neutralized with 1 N HCl. The precipitated solid (5 g) was collected and washed with water to give the product 3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinolin-1-ol 4 g as a white solid. MS: MS m/z 311.11 (M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 20 mmol, 4.43 g | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 30.0 mmol, 17.65 ml | CCCCC | C5H12
reactant | 5-isopropoxypicolinonitrile | 21.00 mmol, 3.41 g | C(C)(C)OC=1C=CC(=NC1)C#N | C9H10N2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinolin-1-ol | 4 g | C(C)(C)OC=1C=CC(=NC1)C=1N=C(C2=CC=C(C=C2C1)OC)O | C18H18N2O3
